US08466186B2
(b) N-(4-Fluoro-3-nitro-benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide
The sub-title compound was prepared in analogy to the procedure in Example 94, step (c) using 4-fluoro-3-nitro-benzylamine hydrochloride (3.0 g; 14.5 mmol), 1-(trifluoromethyl)-cyclopropanecarboxylic acid (2.5 g; 16.0 mmol), HBTU (6.07 g; 16.0 mmol), TEA (5.88 g; 58.1 mmol) and DMF (50 mL).

reactant | 4-fluoro-3-nitro-benzylamine hydrochloride | 14.5 mmol, 3.0 g | Cl.FC1=C(C=C(CN)C=C1)[N+](=O)[O-]
reactant | 1-(trifluoromethyl)-cyclopropanecarboxylic acid | 16.0 mmol, 2.5 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | HBTU | 16.0 mmol, 6.07 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluoro-3-nitro-benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | FC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)[N+](=O)[O-] | C12H10F4N2O3
